US05461035
1c. H-Tyr-Cys-Asn-OH (SEQ ID No. 4)
2.2 g (2.9 mmol) of H-Tyr(tBu)-Cys(Trt)-Asn-OtBu are dissolved in a mixture of 25 ml of trifluoroacetic acid and 25 ml of ethyl mercaptan. After 4 hours, the mixture is tipped into 250 ml of water. The aqueous solution is extracted 3 times with ether and freeze-dried. Yield 1.05 g (91%).

reactant | H-Tyr(tBu)-Cys(Trt)-Asn-OtBu | 2.9 mmol, 2.2 g | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C43H52N4O6S
reactant | water | 250 ml | O | H2O
solvent | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl mercaptan | 25 ml | C(C)S | C2H6S
product | H-Tyr-Cys-Asn-OH | N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@@H](CS)C(=O)N[C@@H](CC(N)=O)C(=O)O | C16H22N4O6S
